US07595329B2
Step 2. 3-isopropyl-2-oxo-N-(piperidin-4-ylmethyl)-2,3-dihydro-1H-benzimidazole-1-carboxamide
A solution of tert-butyl 4-({[(3-isopropyl-2-oxo-2,3-dihydro-1H-benzimidazol-1-yl)carbonyl]amino}methyl)piperidine-1-carboxylate (3.992 g, 9.58 mmol) in 50 ml 10% hydrochloric acid in methanol and 10 ml concentrated hydrochloric acid was stirred at room temperature for 18 hours. The mixture was then concentrated and basified with aqueous Na2CO3, extracted with CHCl3 (100 ml) for 3 times. The combined extract was dried and concentrated. Flash chromatography of the residue (NH-silica gel, elutent: CH2Cl2/methanol=100/1) afforded a colorless oil 2.272 g (75%) as the title compound.

reactant | tert-butyl 4-({[(3-isopropyl-2-oxo-2,3-dihydro-1H-benzimidazol-1-yl)carbonyl]amino}methyl)piperidine-1-carboxylate | 9.58 mmol, 3.992 g | C(C)(C)N1C(N(C2=C1C=CC=C2)C(=O)NCC2CCN(CC2)C(=O)OC(C)(C)C)=O | C22H32N4O4
solvent | hydrochloric acid | 50 ml | Cl | ClH
solvent | methanol | CO | CH4O
solvent | hydrochloric acid | 10 ml | Cl | ClH
product | 3-isopropyl-2-oxo-N-(piperidin-4-ylmethyl)-2,3-dihydro-1H-benzimidazole-1-carboxamide | 2.272 g, 75% | C(C)(C)N1C(N(C2=C1C=CC=C2)C(=O)NCC2CCNCC2)=O | C17H24N4O2
